US06200976B1
4-{[6-(N-ethoxycarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-2-oxo-1,2-dihydroquinoxalin-3-yl]-methyl}-N′-(2-methylsulphonyl-ethyloxycarbonyl)-benzamidine
0.5 g (0.77 mmol) of 4-{[6-(N-ethoxycarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-2-oxo-1,2-dihydroquinoxalin-3-yl]-methyl}-benzamidine-hydrochloride, 0.32 g (2.3 mmol) of potassium carbonate and 0.39 g (1.4 mmol) of 2-(methylsulphonyl)-ethyl-4-nitrophenyl carbonate are stirred in 40 ml tetrahydrofuran for 54 hours at ambient temperature. The solvent is distilled off and the residue is taken up in methylene chloride and sodium hydrogen carbonate solution. The combined organic extracts are dried and evaporated down. The residue is chromatographed on aluminium oxide and eluted with methylene chloride+1-5% ethanol.

reactant | 4-{[6-(N-ethoxycarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-2-oxo-1,2-dihydroquinoxalin-3-yl]-methyl}-benzamidine-hydrochloride | 0.77 mmol, 0.5 g | Cl.C(C)OC(=O)CN(C=1C=C2N=C(C(N(C2=CC1)C)=O)CC1=CC=C(C(=N)N)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12
reactant | potassium carbonate | 2.3 mmol, 0.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(methylsulphonyl)-ethyl-4-nitrophenyl carbonate | 1.4 mmol, 0.39 g | C(OC1=C(C=C(C=C1)[N+](=O)[O-])CCS(=O)(=O)C)([O-])=O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-{[6-(N-ethoxycarbonylmethyl-quinolin-8-yl-sulphonylamino)-1-methyl-2-oxo-1,2-dihydroquinoxalin-3-yl]-methyl}-N′-(2-methylsulphonyl-ethyloxycarbonyl)-benzamidine | C(C)OC(=O)CN(C=1C=C2N=C(C(N(C2=CC1)C)=O)CC1=CC=C(C(=NC(=O)OCCS(=O)(=O)C)N)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12 | C34H34N6O9S2
